US07985764B2
A 5.00 g portion of 4-hydrazinobenzoic acid was suspended in 50 ml of ethanol, and 5.6 ml of 3-pentanone and 2.7 ml of sulfuric acid were added, followed by stirring at 85° C. for 24 hours. After evaporation of ethanol under a reduced pressure, water was added to the residue under ice-cooling, followed by stirring at the same temperature for 30 minutes. The resulting solid was collected by filtration and then washed with water to obtain 6.34 g of ethyl 2-ethyl-3-methyl-1H-indole-5-carboxylate as a light brown solid.

reactant | 4-hydrazinobenzoic acid | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | 3-pentanone | 5.6 ml | CCC(CC)=O | C5H10O
reactant | sulfuric acid | 2.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 2-ethyl-3-methyl-1H-indole-5-carboxylate | 6.34 g | C(C)C=1NC2=CC=C(C=C2C1C)C(=O)OCC | C14H17NO2
